US07326715B2
4-Benzyloxy-2-methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidine (100 mg) and potassium peroxymonosulfate (490 mg) were stirred at room temperature in acetonitrile (2 ml) and water (200 μl) for 20 hours. The reaction mixture was diluted with ethyl acetate (40 ml) and washed with water (40 ml). Organics were separated, dried over sodium sulphate, and solvent evaporated under reduced pressure to yield product 4-benzyloxy-2-methanesulfonyl-6-(3-trifluoromethyl-phenyl)-pyrimidine (93 mg). 1H NMR (CDCl3): δ 8.28 (s, 1H), 8.25 (d, 1H), 7.80 (d, 1H), 7.68 (t, 1H), 7.48 (d, 2H), 7.41 (m, 3H), 7.32 (s, 1H), 5.59 (s, 2H), 3.40 (s, 3H).

reactant | 4-Benzyloxy-2-methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidine | 100 mg | C(C1=CC=CC=C1)OC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)SC | C19H15F3N2OS
reactant | potassium peroxymonosulfate | 490 mg | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | water | 200 μl | O | H2O
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 4-benzyloxy-2-methanesulfonyl-6-(3-trifluoromethyl-phenyl)-pyrimidine | 93 mg | C(C1=CC=CC=C1)OC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)S(=O)(=O)C | C19H15F3N2O3S
